US06090802
(2S,4S)-4-(4-Methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid (10 g) and triethylamine (3.59 ml) were dissolved in tetrahydrofuran (25 ml), followed by stirring at -15 to -10° C. To the mixture, ethyl chlorocarbonate (2.46 ml) was added at the same temperature, followed by stirring at the same temperature for 15 minutes and then at 0-5° C. for one hour. The reaction mixture was filtered through Celite and the residue was washed with tetrahydrofuran (15 ml). The tetrahydrofuran solution was cooled to 0-5° C., followed by the addition of a solution, which had been obtained by dissolving sodium borohydride (1.9 g) in water (20 ml), in three portions below 25° C. The resulting mixture was stirred at room temperature for one hour. Ethyl acetate (100 ml) was added to the reaction mixture. The resulting mixture was washed successively with water, 1N hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and saline; and then dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was subjected to chromatography through a silica gel column. From the fractions eluted with a 1:1 solvent mixture of ethyl acetate and cyclohexane, (2S,4S)-2-hydroxymethyl-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (4.3 g) was obtained.

reactant | (2S,4S)-4-(4-Methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 10 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | triethylamine | 3.59 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 2.46 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium borohydride | 1.9 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-2-hydroxymethyl-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 4.3 g | OC[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C21H24N2O6S
